US09388173B2
Step 3: (4-((5-bromo-1H-pyrazol-1-yl)methyl)phenyl)(pyrrolidin-1-yl)methanone
4-((5-bromo-1H-pyrazol-1-yl)methyl)benzoic acid (200 mg, 0.71 mmol), pyrrolidine (61 mg, 0.85 mmol) and EDC-HOBt (452 mg, 2 mmol) were combined in CH2Cl2 and stirred for 4 h at room temperature. The mixture was evaporated in vacuuo and the residue dissolved in ethyl acetate and washed with water. The separated organic layer was dried and concentrated affording the product as an oil (231 mg, yield 99%), which was used in next step without further purification. LCMS (m/z): 334.2 [M+H]+

reactant | 4-((5-bromo-1H-pyrazol-1-yl)methyl)benzoic acid | 0.71 mmol, 200 mg | BrC1=CC=NN1CC1=CC=C(C(=O)O)C=C1 | C11H9BrN2O2
reactant | pyrrolidine | 0.85 mmol, 61 mg | N1CCCC1 | C4H9N
reactant | EDC HOBt | 2 mmol, 452 mg | C(CCl)Cl.C=1C=CC2=C(C1)N=NN2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4-((5-bromo-1H-pyrazol-1-yl)methyl)phenyl)(pyrrolidin-1-yl)methanone | 231 mg, yield 99% | BrC1=CC=NN1CC1=CC=C(C=C1)C(=O)N1CCCC1 | C15H16BrN3O
